US06933321B2
4-Bromo-2-trifluoromethylbenzonitrile:
In a round bottom flask, 4-cyano-3-trifluoromethylaniline (20 g, 107.5 mmol) was solubilized in 300 mL of 47% aq HBr. This solution was cooled to 0° C. in an ice bath and NaNO2 (22.2 g, 322 mmol) was added slowly. Then CuBr (46.3 g, 322.5 mmol) was added slowly. After the addition, the ice bath was removed and the mixture was stirred at 20° C. for 3 hr. The mixture was cooled to 0° C. in an ice bath and 500 mL of water were added to get a yellow precipitate. Solid was filtered and washed successively with 10% aq. HCl (50 mL) and water (100 mL), and dried to give the product (23.5 g, 87%), 1H NMR (300 MHz, Acetone-d6)δ: 8.19 (s, 1H, C3—H), 8.16 (d, 1H, J=8 Hz, C6—H), 8.05 (d, 1H, J=8 Hz, C5—H).

reactant | 4-cyano-3-trifluoromethylaniline | 107.5 mmol, 20 g | C(#N)C1=C(C=C(N)C=C1)C(F)(F)F | C8H5F3N2
reactant | NaNO2 | 322 mmol, 22.2 g | N(=O)[O-].[Na+]
reactant | HBr | 300 mL | Br | BrH
product | 4-Bromo-2-trifluoromethylbenzonitrile | 23.5 g, 87% | BrC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
